US06140349
Allylamine (0.45 mL, 0.34 g, 6.0 mmol), acetic acid (0.300 mL, 315 mg, 5.24 mmol), and 3 A molecular sieves (2.00 g) were added to a solution of 1-(tert-butyoxycarbonyl)-4-piperidone (1.00 g, 5.01 mmol) in 14 mL of 1,2-dichloroethane. After stirring 0.5 h at RT, sodium triacetoxyborohydride (1.62 g, 7.6 mmol) was added in two portions 5 min apart. After an additional 3 h, the mixture was partitioned between 30 mL of ethyl acetate and 20 mL of saturated aqueous sodium bicarbonate. The aqueous layer was extracted with 30 mL of ethyl acetate and the organic layers were washed in succession with 20 mL of brine, combined, dried over sodium sulfate, and evaporated to give 1.20 g of crude 4-(allylamino)-1-(tert-butoxycarbonyl)piperidine as a yellow syrup.

reactant | Allylamine | 6.0 mmol, 0.45 mL, 0.34 g | C(C=C)N | C3H7N
reactant | acetic acid | 5.24 mmol, 0.300 mL, 315 mg | C(C)(=O)O | C2H4O2
reactant | 1-(tert-butyoxycarbonyl)-4-piperidone | 5.01 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 7.6 mmol, 1.62 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 14 mL | ClCCCl | C2H4Cl2
product | 4-(allylamino)-1-(tert-butoxycarbonyl)piperidine | 1.20 g | C(C=C)NC1CCN(CC1)C(=O)OC(C)(C)C | C13H24N2O2
